US07893056B2
Tris(1,1-dimethylethyl)2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate (1.16 g, 2.339 mmol) was dissolved in THF (5 mL). To this solution was added triethylamine (0.39 mL, 2.8 mmol), followed by N-methyl-1-(1,3-thiazol-2-yl)methanamine (0.30 g, 2.3437 mmol) in THF (2 mL). The reaction was left to stir overnight. Then the reaction mixture was diluted with water, and the aqueous layer was extracted with ethyl acetate. The organics were dried (Na2SO4) and concentrated to produce tris(1,1-dimethylethyl)2-{2-chloro-5-fluoro-6-[methyl(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate as a white solid (1.51 g). LCMS: (M+H−Boc)+=489.1.

reactant | Tris(1,1-dimethylethyl)2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate | 2.339 mmol, 1.16 g | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)Cl)Cl)C(=O)OC(C)(C)C | C19H27Cl2FN4O6
reactant | triethylamine | 2.8 mmol, 0.39 mL | C(C)N(CC)CC | C6H15N
reactant | N-methyl-1-(1,3-thiazol-2-yl)methanamine | 2.3437 mmol, 0.30 g | CNCC=1SC=CN1 | C5H8N2S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | tris(1,1-dimethylethyl)2-{2-chloro-5-fluoro-6-[methyl(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate | 1.51 g | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)N(CC=1SC=CN1)C)Cl)C(=O)OC(C)(C)C | C24H34ClFN6O6S
